US05504078
Methyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-acetyloxymethyl-α-D-glucopyranosyl)-2,3,6-tri-O-benzyl-α-D-glucopyranoside (3.19 g, 3.35 mmol) is dissolved in hot toluene (20 ml) and methanol (80 ml) is added, followed by a few drops of 1 M methanolic sodium methoxide. The mixture is stirred at room temperature during 2 h. The reaction mixture is made neutral with Amberlite IR 120 (H+) resin, filtered and concentrated under reduced pressure so as to afford methyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranosyl)-2,3,6-tri-O-benzyl-α-D-glucopyranoside as an amorphous solid.

reactant | Methyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-acetyloxymethyl-α-D-glucopyranosyl)-2,3,6-tri-O-benzyl-α-D-glucopyranoside | 3.35 mmol, 3.19 g | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COC(C)=O)COCC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@@H](OC)O[C@@H]1COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C58H64O12
reactant | methanol | 80 ml | CO | CH4O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sodium methoxide | 1 M, a few drops | C[O-].[Na+]
product | methyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranosyl)-2,3,6-tri-O-benzyl-α-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)CO)COCC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@@H](OC)O[C@@H]1COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C56H62O11
